US04232024
29.4 g. 1-(2-Mercapto-4-methoxyphenyl)-5-carboxypyrimidine-2,6-dione are boiled for 6 hours in 300 ml. of a semi-concentrated dioxane solution of hydrochloric acid. The 7-methoxy-1-oxo-1H-pyrimido[6,1-b]benzthiazole-4-carboxylic acid which is thereby formed can be obtained in practically quantitative yield by suction filtration of the hot solution. The physical data of the product agree with those of the compound prepared according to Variant I.

reactant | 1-(2-Mercapto-4-methoxyphenyl)-5-carboxypyrimidine-2,6-dione | SC1=C(C=CC(=C1)OC)N1C(NC=C(C1=O)C(=O)O)=O | C12H10N2O5S
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 7-methoxy-1-oxo-1H-pyrimido[6,1-b]benzthiazole-4-carboxylic acid | quantitative yield | COC1=CC2=C(N3C(S2)=C(C=NC3=O)C(=O)O)C=C1 | C12H8N2O4S
